US09085555B2
A. 3-Iodo-5-methyl-1H-pyrazolo[3,4-c]pyridine
To a solution of 5-methyl-1H-pyrazolo[3,4-c]pyridine [76006-06-9] (1.00 g, 7.51 mmol) in DMF (15 mL) were added iodine (2.86 g, 11.3 mmol) and potassium hydroxide (1.05 g, 18.8 mmol). The reaction mixture was stirred at RT for 60 h. The mixture was diluted with 10% sodium thiosulfate and water, the resulting suspension was filtered. The solid was washed with water and then dried under vacuum. MS (LC/MS): 260.0 [M+H]+; tR (HPLC conditions k): 0.28 min.

reactant | 5-methyl-1H-pyrazolo[3,4-c]pyridine | 7.51 mmol, 1.00 g | CC=1C=C2C(=CN1)NN=C2 | C7H7N3
reactant | iodine | 11.3 mmol, 2.86 g | II | I2
reactant | potassium hydroxide | 18.8 mmol, 1.05 g | [OH-].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 3-Iodo-5-methyl-1H-pyrazolo[3,4-c]pyridine | IC1=NNC2=CN=C(C=C21)C | C7H6IN3
